US07732461B2
(d) Racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one
A solution of racemic 1,1-dimethylethyl{(3R,4S)-1-[(3-fluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-3-hydroxy-4-piperidinyl}carbamate (200 mg) in acetic acid (6 ml) was treated with a 4M solution of HCl in 1,4-dioxane (2 ml), stirred 2 h at room temperature and evaporated to dryness. A part solution/part suspension of this material in dichloromethane (8.5 ml) and methanol (1.5 ml) was treated with MP-carbonate resin (obtained from Argonaut Technologies) (1.2 g), stirred for 3 h, filtered and the resin washed well with 1:1 dichloromethane/methanol. The filtrate was evaporated and the residue chromatographed on silica gel, eluting with dichloromethane/methanol/0.88 ammonia (89:11:1.1) to give product (133 mg, 87%).

reactant | racemic 1,1-dimethylethyl{(3R,4S)-1-[(3-fluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-3-hydroxy-4-piperidinyl}carbamate | 200 mg | CC(C)(C)N(C([O-])=O)[C@@H]1[C@@H](CN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)F)O
reactant | HCl | Cl | ClH
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | Racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 133 mg, 87% | N[C@@H]1[C@@H](CN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)F)O | C16H19FN4O2
